US09193692B2
B. 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
The following reaction was split into 3 separate sealed tubes and worked up separately. The material was then combined following purification. Ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino)acetate (10 g, 25.7 mmol), methanol (10.5 mL, 259 mmol) and TFA (100 mL) were combined in a sealable vessel with a stirbar. The system was purged with nitrogen and the resulting mixture was sealed, stirred vigorously and heated at 90° C. with an oil bath for 18.5 h. The resulting mixture was diluted with methanol and all the solvent was removed under reduced pressure. Methanol (100 mL) was added and all the solvent was removed under reduced pressure again. Methanol (100 mL) and sodium bicarbonate (12.4 g, 147 mmol) were added. The resulting mixture was stirred at room temperature until pH=6 (in water). The mixture was concentrated nearly to dryness. Water (100 mL) was added. The resulting brown solids were collected by vacuum filtration and washed with water. The brown solids were dissolved in hot methanol and acetonitrile and purified using reverse-phase C18 flash column chromatography (20-100% acetonitrile in water). Fractions containing the desired product were combined and concentrated nearly to dryness under reduced pressure. Solids were collected by vacuum filtration, washed with water and dried under high vacuum to give the desired product (4.88 g, 14.3 mmol, 55% yield) as a light tan solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm) 7.71 (s, 1H), 7.59 (s, 1H), 4.66 (tt, J=3.61, 12.20 Hz, 1H), 4.07 (d, J=1.56 Hz, 2H), 3.25 (s, 3H), 3.06-3.17 (m, 1H), 2.42 (qd, J=3.51, 12.89 Hz, 2H), 2.10 (d, J=10.93 Hz, 2H), 1.61 (d, J=10.93 Hz, 2H), 1.10-1.24 (m, 2H); MS (ESI) m/z 341.3 [M]+, 343.1 [M+2]+.

reactant | Ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino)acetate | 25.7 mmol, 10 g | BrC=1N=C(C(=NC1)NCC(=O)OCC)N[C@@H]1CC[C@H](CC1)OC | C15H23BrN4O3
reactant | methanol | 259 mmol, 10.5 mL | CO | CH4O
reactant | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Methanol | 100 mL | CO | CH4O
reactant | sodium bicarbonate | 147 mmol, 12.4 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 14.3 mmol, 4.88 g, 55% yield | BrC1=CN=C2C(=N1)N(C(CN2)=O)[C@@H]2CC[C@H](CC2)OC | C13H17BrN4O2
